Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I do not know why I am here"

 
Major Surgical or Invasive Procedure:
None.
 
History of Present Illness:
Ms. ___ is a ___ year old woman with a history of paranoid 
schizophrenia who was brought in by ambulance on a ___ 
from her group home for 2 weeks of paranoia, agitation, and 
aggression and concerns regarding the safety of staff and other 
residents at the group home.

Patient reports that other clients at the group home have been 
using the bathroom all the time, using the shower, making a 
mess, and not turning the light off. This has been very 
frustrating for her. She also feels like she is being watched 
all the time, and that the staff don't like her. She believes 
they are nosy, which is why she has to move away. She reports 
that she tried to lie down to get some rest this afternoon, and 
the police and ambulance came to bring her here. She does not 
know why she is in the hospital." 

On interview at this time, patient does not know why she is in 
the hospital.  Patient reports that she was laying in bed and 
that an ambulance came and brought her to the hospital.  Patient 
denies that she has been acting aggressively and feels that she 
is at her baseline.  Patient denies auditory hallucinations and 
there are no frank delusions that are picked up during 
interview. Patient whenever asked about particular instances of 
aggression that have been corroborated to us by collaterals 
states either denies or states that she does not want to talk 
about it. 

Patient reports that she smokes five to eight cigarettes per 
day, but denies other drug use, including alcohol and illicit 
drugs.  

Patient repeatedly tells us that there is nothing wrong with her 
and that she wants to go back to her group home. Patient also 
stated that she is tired of telling people the same story over 
and over. 

Patient on review of systems denies suicidal or homicidal 
ideation. 

General ROS: All systems reviewed and were negative.

 
Past Medical History:
Past psychiatric history: 
Last hospitalization several years ago. Of note, previous 
hospitalizations have resulted in short period of stabilization 
in the community, but lack of continued engagement, 
self-discontinuing medications, and substance abuse historically
led to decompensation, resulting in previous admissions
___- psychosis -___, ___ Mental, ___
___ - psychosis - Mass Mental MHC
___ - psychosis - ___
___ - psychosis - ___
___ - psychosis -___
___ - ___
___ - ___
___ - ___
___ - ___ - arrested for crack paraphernalia (15b
eval?); psychosis - ___ 
___ - ___ - breaking and entering charge, assaultive
towards police (15b eval?) -___
___ - ___ ___
___- psychosis - ___
___ - competency to stand trial trespassing and
assault ___
___ -15b related to charges of theft; psychosis-___. Patient has ___ services through ___ since ___ 
previously received outpatient primary care and psychiatry at
___ (now banned from)
Medication and ECT trials: patient was previously on risperidone
and was transitioned to Invega more than ___ years ago 
Self-injury: Denies, no prior suicide attempts
Harm to others: History of physically assaulting others when
decompensated
Access to weapons: Denies

***Please see collateral note authored by Dr. ___ ___ 
for additional information provided by ___ Human Services***

  
Past medical history:
Hyperlipidemia 
Eczema 

 
Social History:
___
Family History:
Unknown
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:
Temp: 97.9 (Tm 97.9), BP: 105/71, HR: 80, RR: 16, O2 sat: 100%  

Patient would not allow me to perform general and physical
examination. 

Cognition: 
Patient appeared awake and alert. Attentive to interview but 
unwilling to engage in formal assessment of orientation, fund of 
knowledge, calculations, abstraction, visuospatial and executive 
functioning. Speech: patient with flat tone, minimal output. 
Language: speaks some ___, no grammatical errors

Mental Status:
Appearance: No acute distress, disheveled, appears older than 
stated age, 
Behavior: Calm, intermittently cooperative  
Mood and Affect: Flat
Thought Process: Limited 
Thought Content: Denies SI/HI/AH/VH, no evidence of delusions or 
paranoia
Judgment and Insight: poor/poor
.
DISCHARGE EXAM:
VS: patient refused vitals this morning
A: Somewhat disheveled, good hygiene, NAD
B: Good eye contact, calm and cooperative, no psychomotor 
agitation/retardation
M/A: "good", euthymic, mood congruent
S: Normal rate, volume, prosody
TP: Linear, goal and future oriented
TC: Denies current suicidal ideation or thoughts/urges to engage 
in self-harm or to harm others; no evidence of internal 
preoccupation or hallucinatory stimuli present; no delusional 
thought content expressed. 
C: Alert and oriented x 3, fluent ___ attentive to 
interview
I/J: Fair/Fair
.
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Pertinent Results:
WBC 11.2, BMP normal
Drug screen negative

*Patient refused labs for routine metabolic monitoring (lipids, 
A1c)*
 
Brief Hospital Course:
1. LEGAL & SAFETY:  
Patient was admitted on a ___, which expired on ___.  
At that time the patient was deemed to be at risk of harm to 
self/others due to aggressive behavior, so a Section ___ was 
filed on ___ with the district court. Court date was 
scheduled for ___, but continuance was filed and granted. 
She was also placed on 15 minute checks status on admission and 
remained on that level of observation throughout while being 
unit restricted.

2. PSYCHIATRIC:
#) Although patient was a limited historian regarding 
circumstances leading to admission, collateral information 
obtained from group home concerning for increasingly erratic 
behavior such that she was unsafe for her to return to her group 
home at that time. Patient refused PO medications this 
admission, but was compliant with Invega Sustenna injection 
given on ___. She exhibited some instances of behavioral 
dysregulation on ___: slammed a door, threw a bag of trash 
across her room when housekeeper came to clean. At that time, 
she was noted to be tearful and expressed frustration about 
having to stay in the hospital, saying that she wanted to go 
back to her group home. Patient was responsive to verbal 
redirection and no other behavioral outbursts occurred during 
this admission.
.
Treatment team remained in contact with ___ of ___ 
___ throughout ___ hospital stay regarding 
her progress and discharge planning. Held meeting with ___ 
team and the patient on ___ to discuss patient's return to 
the ___. Patient expressed understanding of what would 
be expected of her in order to be allowed back into the group 
home, including cleaning her room to meet safety inspection 
requirements, and respect for other residents and staff members 
in the common environment. Patient was referred to the ___ 
___ for ongoing outpatient psychiatric care, as she is no 
longer allowed to return to her previous clinic after the events 
leading to this admission. She agreed to this plan.
.
On the day of discharge, patient denied suicidal and homicidal 
ideation. Her affect was noticeably brighter; though process 
remained recursive to topic of discharge but redirectable; no 
evidence of delusional thought content present. No evidence of 
internal preoccupation. Judgment and insight limited.
.
MEDICATIONS CONTINUED ON ADMISSION:
-Invega Sustenna 234mg IM injection given on ___
.
NEW MEDICATIONS OFFERED ON ADMISSION: [*patient refused these 
medications*]
----RisperiDONE 1 mg PO BID:PRN anxiety/agitation
----LORazepam 0.5 mg PO Q4H:PRN anxiety/agitation
.
3. MEDICAL
#)Patient presented with mild leukocytosis on 11.4 on admission. 
At that time, she exhibited no signs of infection and vital 
signs were stable. She remained afebrile and otherwise 
asymptomatic throughout hospital stay.
.
4. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. She 
remained isolated in her room during most of hospital stay, and 
was seldom visible in the milieu. When out of her room, patient 
interacted with peers and staff appropriately.
.
#) COLLATERAL CONTACTS:
- ___., ___: ___ 
___
- ___, ___ Human Services: ___
.
MEDICATION: Invega Sustenna (paliperidone palmitate)
---Adverse effects: Risk of developing diabetes/dyslipidemia, 
EPS, TD, QTc prolongation, hyperprolactinemia, drowsiness, 
nausea, weight gain, injection site reaction

RISK ASSESSMENT
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself and others based upon 
disorganized and assaultive behavior in the community. Their 
static factors noted at that time included, history of 
trauma/abuse, chronic mental illness, history of substance 
abuse, single status, and limited social supports. The 
modifiable risk factors identified included disorganized and 
unpredictable behavior, agitation, impulsivity, and medication 
noncompliance. These were also addressed at that time through 
pharmacological and therapeutic intervention, and coordination 
with ___ team for discharge preparation and follow-up 
arrangement. Finally, the patient is being discharged with many 
protective risk factors including help-seeking behavior, lack of 
suicidal or homicidal ideation, future-oriented thinking, and 
medication adherence. Overall, based on the totality of our 
assessment at this time, the patient is not at an acutely 
elevated risk of self-harm nor danger to others. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. PALIperidone Palmitate 234 mg IM Q1MO (___) 

 
Discharge Medications:
1.  Nicotine Patch 21 mg TD DAILY Duration: 6 Weeks 
RX *nicotine 21 mg/24 hour Apply to upper arm each morning Disp 
#*14 Patch Refills:*0 
2.  Nicotine Polacrilex 4 mg PO Q1H:PRN craving  
3.  PALIperidone Palmitate 234 mg IM Q1MO (___)  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Schizophrenia

 
Discharge Condition:
VS: patient refused vitals this morning
A: Somewhat disheveled, good hygiene, NAD
B: Good eye contact, calm and cooperative, no psychomotor 
agitation/retardation
M/A: 'good', euthymic, mood congruent
S: Normal rate, volume, prosody
TP: Linear, goal and future oriented
TC: Denies current suicidal ideation or thoughts/urges to engage 
in self-harm or to harm others; no evidence of internal 
preoccupation or hallucinatory stimuli present; no delusional 
thought content expressed. 
C: Alert and oriented x 3, fluent ___ attentive to 
interview
I/J: Fair/Fair
.
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___